US05686434
Into a flask fitted with a reflux condenser was placed a mixture of 37 ml (29 g, 0.50 mol) of acetone and 46 ml (55 g, 0.50 ml) of dimethylphosphite followed by 3 ml of saturated methanolic sodium methoxide solution. A vigorous exotherm ensued and the mixture was allowed to stir at RT for about 16 h. A large deposit of crystals formed and were filtered and washed well with ether-hexane (1:1) to give 50 g of dimethyl 1-hydroxy-1-methylethylphosphonate, mp 75°-77° C.

reactant | acetone | 0.50 mol, 37 ml, 29 g | CC(=O)C | C3H6O
reactant | dimethylphosphite | 46 ml, 55 g | COP(OC)[O-]
reactant | sodium methoxide | 3 ml | C[O-].[Na+]
product | dimethyl 1-hydroxy-1-methylethylphosphonate | 50 g | OC(C)(C)P(OC)(OC)=O | C5H13O4P
